US04666916
(a) (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-9-(phenylethyloxy)-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine
A mixture of 0.2 g (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-9-hydroxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine (m.p. of HCl salt 268°-269° ), 0.215 ml phenethyl alcohol and 0.3 g dicyclohexylcarboddiimide is heated under nitrogen for 18 hours at 130°. The cooled reaction mixture is flash chromatographed with CH2Cl2 /methanol (20:1) to yield the title compound; m.p. HCl salt 204°.

reactant | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-hexahydro-9-hydroxy-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | 0.2 g | OC=1C=CC2=C(C1)[C@H]1CN(CC[C@H]1CO2)C | C13H17NO2
reactant | phenethyl alcohol | 0.215 ml | C(CC1=CC=CC=C1)O | C8H10O
product | (±)-[4aR*,10bS*]-1,3,4,4a,5,10b-Hexahydro-9-(phenylethyloxy)-2-methyl-2H-[1]benzopyrano[4,3-c]pyridine | C1(=CC=CC=C1)CCOC=1C=CC2=C(C1)[C@H]1CN(CC[C@H]1CO2)C | C21H25NO2
